US07109219B2
2-Amino-4-chloro-5-cyanopyridine
1-Methyl-2-pyrrolidone (20 ml), zinc cyanide (0.49 g, 4.17 mmol) and tetrakis(triphenylphosphine)palladium (1.3 g, 1.12 mmol) were added to 2-amino-4-chloro-5-iodopyridine (1.93 g, 7.58 mmol) synthesized in Production example 215-2; and the reaction mixture was stirred at 130-135° C. for 5 hours. Approximately 0.28% of aqueous ammonium (100 ml) and ethyl acetate was added to the reaction mixture; and the organic layer was separated, washed with brine, and dried over anhydrous sodium sulfate. This was concentrated under reduced pressure and the residue was filtrated by silica gel column chromatography (Fuji Silysia NH, ethyl acetate). After concentration under reduced pressure, a solvent mixture (ether:hexane=1:1) was added to the residue, and stirred; and the solid was filtered off to yield the title compound as crystals (680 mg).

reactant | 1-Methyl-2-pyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-amino-4-chloro-5-iodopyridine | 7.58 mmol, 1.93 g | NC1=NC=C(C(=C1)Cl)I | C5H4ClIN2
reactant | ammonium | 100 ml | [NH4+]
catalyst | zinc cyanide | 4.17 mmol, 0.49 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 1.12 mmol, 1.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4-chloro-5-cyanopyridine | 680 mg | NC1=NC=C(C(=C1)Cl)C#N | C6H4ClN3
